US05856518
1-(1-Amino-1-cyanomethyl)-1-ethoxycarbonylcyclopropane
An eggplant type flask was charged with 3.49 g of potassium cyanide and 3.74 g of ammonium chloride, and the contents were dissolved in 20 ml of water. After adding 40 ml of concentrated ammonia water to the solution, 5.01 g of ethyl 1-formylcyclopropane-1-carboxylate dissolved in 30 ml of ethanol was added thereto dropwise at room temperature, and the reaction solution was stirred for 2 hours at 50° C. After confirming completion of the reaction, the reaction solution was mixed with ice water and extracted with ethyl acetate. Next, the resulting organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and, after removing insoluble matter by filtration, concentrated under a reduced pressure. Thereafter, the resulting residue was subjected to a silica gel column chromatography (ethyl acetate) to obtain 5.44 g (97%) of the title compound in the form of colorless oil.

reactant | potassium cyanide | 3.49 g | [C-]#N.[K+]
reactant | ammonium chloride | 3.74 g | [Cl-].[NH4+]
reactant | ammonia water | 40 ml | O.N
reactant | ethyl 1-formylcyclopropane-1-carboxylate | 5.01 g | C(=O)C1(CC1)C(=O)OCC | C7H10O3
solvent | water | 20 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-(1-Amino-1-cyanomethyl)-1-ethoxycarbonylcyclopropane | 5.44 g, 97% | NC(C#N)C1(CC1)C(=O)OCC | C8H12N2O2
